US08633173B2
N-Methyl-N-(2-{2-[4-(1-methyl-piperidin-4-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-benzyl)-methanesulfonamide was prepared from N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-benzyl]-N-methyl-methanesulfonamide (75.0 mg, 0.205 mmol) and 4-(1-methyl-piperidin-4-yl)-phenylamine (44.0 mg, 0.231 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.068 g, 64%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.96 (d, J=6.5 Hz, 1H), 7.54 (d, J=8.3 Hz, 2H), 7.46-7.38 (m, 2H), 7.35 (t, J=7.5 Hz, 1H), 7.21 (d, J=8.4 Hz, 2H), 7.13 (t, J=7.5 Hz, 1H), 7.00 (s, 1H), 6.83 (d, J=7.8 Hz, 1H), 6.76 (s, 1H), 6.70 (t, J=7.0 Hz, 1H), 4.36 (s, 2H), 2.95 (d, J=11.2 Hz, 2H), 2.91 (s, 3H), 2.78 (s, 3H), 2.50-2.40 (m, 1H), 2.33 (s, 3H), 2.10-2.00 (m, 2H), 1.87-1.73 (m, 4H). MS=520 (MH)+.

reactant | N-[2-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-benzyl]-N-methyl-methanesulfonamide | 0.205 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(CN(S(=O)(=O)C)C)C=CC=C2)=N1 | C15H16ClN5O2S
reactant | 4-(1-methyl-piperidin-4-yl)-phenylamine | 0.231 mmol, 44.0 mg | CN1CCC(CC1)C1=CC=C(C=C1)N | C12H18N2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(2-{2-[4-(1-methyl-piperidin-4-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-benzyl)-methanesulfonamide | CN(S(=O)(=O)C)CC1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)C | C27H33N7O2S
